US08242145B2
Step 3: [(S)-2-(4-Chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester
Trifluoroacetic acid (2 mL) was cooled to −5° C. [(S)-2-(4-Chloro-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester (0.87 g, 2.7 mmol) was added slowly, followed by dimethylphenylsilane (0.5 mL, 3.3 mmol), and the mixture was stirred for 4 hours. Once no starting material was seen by analytical tlc, the mixture was cooled to 0° C. and treated with 50% aqueous KOH (10 mL), followed by THF. After stirring at mom temperature for 5 hours, only starting material was seen by analytical tlc, and so the solution was diluted with EtOAc and brine. The organic layer was separated and concentrated, and the crude material was purified to give the desired product.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [(S)-2-(4-Chloro-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester | 2.7 mmol, 0.87 g | C(C1=CC=CC=C1)OC(N[C@H](C(=O)C1=CC=C(C=C1)Cl)C)=O | C17H16ClNO3
reactant | dimethylphenylsilane | 3.3 mmol, 0.5 mL | C[SiH](C1=CC=CC=C1)C | C8H12Si
reactant | KOH | 10 mL | [OH-].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | THF | C1CCOC1 | C4H8O
product | [(S)-2-(4-Chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H](C(O)C1=CC=C(C=C1)Cl)C)=O | C17H18ClNO3
